US09353108B2
A) Methyl 2-cyclopropyl-5-ethoxybiphenyl-4-carboxylate
A mixture of methyl 5-cyclopropyl-2-ethoxy-4-(((trifluoromethyl)sulfonyl)oxy)benzoate (2.5 g), phenylboronic acid (1.66 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.418 g), a 2 M aqueous sodium carbonate solution (10.2 mL), tris(dibenzylideneacetone)dipalladium(0) (0.435 g), and toluene (20 mL) was stirred overnight at 100° C. in an argon atmosphere. The reaction mixture was allowed to cool to room temperature. Then, the organic layer was separated and passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.80 g).

reactant | methyl 5-cyclopropyl-2-ethoxy-4-(((trifluoromethyl)sulfonyl)oxy)benzoate | 2.5 g | C1(CC1)C=1C(=CC(=C(C(=O)OC)C1)OCC)OS(=O)(=O)C(F)(F)F | C14H15F3O6S
reactant | phenylboronic acid | 1.66 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.418 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 10.2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.435 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-cyclopropyl-5-ethoxybiphenyl-4-carboxylate | 1.80 g | C1(CC1)C1=C(C=C(C(=C1)C(=O)OC)OCC)C1=CC=CC=C1 | C19H20O3
